### PR TITLE
a few basic lemmas about ereal

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

A few basic lemmas about ereal that we found useful when developing probabilities.

~~TODO: doc before merge if it happens~~

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -412,6 +412,10 @@ Definition mule := nosimpl mule_subdef.
 
 Definition abse x := if x is r%:E then `|r|%:E else +oo.
 
+Definition expe x n := iterop n mule x 1.
+
+Definition enatmul x n := iterop n adde x 0.
```
Comment (proux01) [inline theories/ereal.v:417]: We should have the dual version.

File: theories/ereal.v [hunk 2]
```diff
@@ -438,6 +442,8 @@ Notation "x * y" := (mule x y) : ereal_scope.
 Notation "`| x |" := (abse (x%dE : dual_extended _)) : ereal_dual_scope.
 Notation "`| x |" := (abse x) : ereal_scope.
 Arguments abse {R}.
+Notation "x ^+ n" := (expe x n) : ereal_scope.
+Notation "x *+ n" := (enatmul x n) : ereal_scope.
```
Comment (proux01) [inline theories/ereal.v:446]:
```suggestion
Notation "x ^+ n" := (expe x%dE n) : ereal_dual_scope.
Notation "x ^+ n" := (expe x n) : ereal_scope.
Notation "x *+ n" := (ednatmul x%dE n) : ereal_dual_scope.
Notation "x *+ n" := (enatmul x n) : ereal_scope.
```

**Review by proux01 — COMMENTED** [review]
We need a dual enatmul but otherwise this looks good to me.

File: CHANGELOG_UNRELEASED.md [hunk 3]
```diff
@@ -10,6 +10,17 @@
     `bigcup_ointsub_sub`, `open_bigcup_rat`
 - in file `lebesgue_measure.v`:
   + lemmas `is_interval_measurable`, `open_measurable`, `continuous_measurable_fun`
+- in `classical_sets.v`:
+  + lemma `preimage_setT`
+- in `ereal.v`:
+  + definition `expe` with notation `^+`, definition `enatmul` with notation `*+`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:16]:
```suggestion
  + definition `expe` with notation `^+`
  + definition `enatmul` with notation `*+` (scope `%E`)
  + definition `ednatmul` with notation `*+` (scope `%dE`)
```

File: theories/ereal.v [hunk 4]
```diff
@@ -522,6 +536,19 @@ Proof. by []. Qed.
 Lemma lte_tofin (r0 r1 : R) : (r0 < r1)%R -> r0%:E < r1%:E.
 Proof. by []. Qed.
 
+Lemma enatmul_pinfty n : +oo *+ n.+1 = +oo :> \bar R.
+Proof. by elim: n => //= n ->. Qed.
+
+Lemma enatmul_ninfty n : -oo *+ n.+1 = -oo :> \bar R.
+Proof. by elim: n => //= n ->. Qed.
+
+Lemma EFin_enatmul (r : R) n : (r *+ n.+1)%:E = r%:E *+ n.+1.
```
Comment (proux01) [inline theories/ereal.v:545]: Maybe
```suggestion
Lemma EFin_natmul (r : R) n : (r *+ n.+1)%:E = r%:E *+ n.+1.
```

File: theories/ereal.v [hunk 5]
```diff
@@ -738,6 +765,9 @@ Qed.
 Lemma fin_numN x : (- x \is a fin_num) = (x \is a fin_num).
 Proof. by rewrite !fin_numE 2!eqe_oppLR andbC. Qed.
 
+Lemma oppeB x y : y \is a fin_num -> - (x - y) = - x + y.
+Proof. by move=> yfin; rewrite oppeD ?oppeK// fin_numN. Qed.
+
```
Comment (proux01) [inline theories/ereal.v:770]:
```suggestion
Lemma oppeB x y : y \is a fin_num -> - (x - y) = - x + y.
Proof. by move=> yfin; rewrite oppeD ?oppeK// fin_numN. Qed.

Lemma doppeB x y : y \is a fin_num → - (x - y) = - x + y.
Proof. by move⇒ yfin; rewrite doppeD ?oppeK// fin_numN. Qed.
```
(to put just before `dfin_numD`)

File: theories/ereal.v [hunk 6]
```diff
@@ -750,10 +780,15 @@ Lemma fin_numM x y : x \is a fin_num -> y \is a fin_num ->
   x * y \is a fin_num.
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
-Lemma fineD :
-  {in (@fin_num R) &, {morph fine : x y / x + y >-> (x + y)%R}}.
+Lemma fineD : {in @fin_num R &, {morph fine : x y / x + y >-> (x + y)%R}}.
+Proof. by move=> [r| |] [s| |]. Qed.
+
+Lemma fineB : {in @fin_num R &, {morph fine : x y / x - y >-> (x - y)%R}}.
```
Comment (proux01) [inline theories/ereal.v:786]:
```suggestion
Lemma dfineB : {in @fin_num R &, {morph fine : x y / x - y ↣ (x - y)%R}}.
Proof. by move⇒ [r| |] [s| |]. Qed.

Lemma fineB : {in @fin_num R &, {morph fine : x y / x - y >-> (x - y)%R}}.
```
(to put just after `dfineD`)

File: CHANGELOG_UNRELEASED.md [hunk 7]
```diff
@@ -10,6 +10,17 @@
...
+  + lemmas `fineM`, `enatmul_pinfty`, `enatmul_ninfty`, `EFin_enatmul`, `mule2n`, `expe2`,
+    `mule_natl`
+  + lemmas `ednatmul_pinfty`, `ednatmul_ninfty`, `EFin_ednatmul`, `dmule2n`, `dmule_natl`
+- in `esum.v`:
+  + lemma `esum_set1`
+- in `ereal.v`:
+  + lemmas `oppeB`, `fineB`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:23]:
```suggestion
  + lemmas `oppeB`, `fineB`, `doppeB`, `dfineB`
```

File: theories/ereal.v [hunk 8]
```diff
@@ -2528,6 +2583,15 @@ Proof. by move=> x y z; rewrite !dual_addeE oppe_min adde_maxl oppe_max. Qed.
...
 
+Lemma dmule_natl x n : n%:R%:E * x = x *+ n.
+Proof.
+elim: n => [|n]; first by rewrite mul0e.
+move: x => [x| |] ih.
+- by rewrite -EFinM mulr_natl EFin_ednatmul.
+- by rewrite mulrpinfty gtr0_sg// mul1e ednatmul_pinfty.
+- by rewrite mulrninfty gtr0_sg// mul1e ednatmul_ninfty.
+Qed.
+
```
Comment (proux01) [inline theories/ereal.v:2594]:
```suggestion
Lemma ednatmulE x n : x *+ n = (x *+ n)%E.
Proof.
case: x ⇒ [x‖]; case: n ⇒ [//|n].
- by rewrite -EFin_enatmul -EFin_ednatmul.
- by rewrite enatmul_pinfty ednatmul_pinfty.
- by rewrite enatmul_ninfty ednatmul_ninfty.
Qed.

Lemma dmule_natl x n : n%:R%:E * x = x *+ n.
Proof. by rewrite mule_natl ednatmulE. Qed.

```
(`ednatmulE` should be placed after `EFin_ednatmul`)

File: CHANGELOG_UNRELEASED.md [hunk 9]
```diff
@@ -10,6 +10,17 @@
     `bigcup_ointsub_sub`, `open_bigcup_rat`
 - in file `lebesgue_measure.v`:
   + lemmas `is_interval_measurable`, `open_measurable`, `continuous_measurable_fun`
+- in `classical_sets.v`:
+  + lemma `preimage_setT`
+- in `ereal.v`:
+  + definition `expe` with notation `^+`, definition `enatmul` with notation `*+`
+  + lemmas `fineM`, `enatmul_pinfty`, `enatmul_ninfty`, `EFin_enatmul`, `mule2n`, `expe2`,
+    `mule_natl`
+  + lemmas `ednatmul_pinfty`, `ednatmul_ninfty`, `EFin_ednatmul`, `dmule2n`, `dmule_natl`
```
Comment (proux01) [inline CHANGELOG_UNRELEASED.md:19]:
```suggestion
  + lemmas `ednatmul_pinfty`, `ednatmul_ninfty`, `EFin_ednatmul`, `ednatmulE`, `dmule2n`, `dmule_natl`
```

**Review by proux01 — APPROVED** [review]
LGTM, will merge by the end of the week if the suggested changes are fine and there is no other comment.

**Comment by proux01** [comment]
@gares ever seen those errors https://github.com/math-comp/analysis/runs/5714400270?check_suite_focus=true
when installing elpi.1.14.3 that uses camlp5.8.00.03?

**Comment by gares** [comment]
Yes. If you have opam 2.1 then it should just work, otherwise one should run `opam depext camlp5` at some point in the run.
This was the star that broke the camel's back: https://github.com/LPCIC/elpi/pull/130

**Comment by proux01** [comment]
Thanks, @erikmd do you know how we could do that with the Docker images?

**Comment by proux01** [comment]
That works thanks.

**Comment by proux01** [comment]
@affeldt-aist your last for-push looks like a regression?

**Comment by affeldt-aist** [comment]
> @affeldt-aist your last for-push looks like a regression?

Ah, indeed I can  spot at least one change that has resurfaced...

File: theories/ereal.v [hunk 10]
```diff
@@ -738,10 +764,26 @@ Qed.
...
+Lemma oppeB x y : y \is a fin_num -> - (x - y) = - x + y.
+Proof. by move=> yfin; rewrite oppeD ?oppeK// fin_numN. Qed.
+
 Lemma fin_numD x y :
   (x + y \is a fin_num) = (x \is a fin_num) && (y \is a fin_num).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma fin_num_sum (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
+  \sum_(i <- s | P i) f i \is a fin_num <->
+  forall i, i \in s -> P i -> f i \is a fin_num.
```
Comment (proux01) [inline theories/ereal.v:776]: Don't we also want
```Coq
Lemma fin_num_sum (T : Type) (s : seq T) (P : pred T) (f : T -> \bar R) :
  \sum_(i <- s | P i) f i \is a fin_num <-> forall i, P i -> f i \is a fin_num.
```
and the current `fin_num_sum` would be `fin_num_sum_in`?

Comment (affeldt-aist) [reply theories/ereal.v:776]: maybe not exactly this statement because of the case s = nil?

Comment (proux01) [reply theories/ereal.v:776]: Indeed, that doesn't hold, maybe something like
```Coq
Lemma fin_num_sum (T : Type) (s : seq T) (P : pred T) (f : T -> \bar R) :
  \sum_(i <- s | P i) f i \is a fin_num = all fin_num [seq f i | i <- s & P i].
```
and
```Coq
Lemma fin_num_sumP (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
  \sum_(i <- s | P i) f i \is a fin_num <->
  forall i, i \in s -> P i -> f i \is a fin_num.
```

File: theories/esum.v [hunk 11]
```diff
@@ -91,6 +91,11 @@ apply ub_ereal_sup => /= ? -[F' F'F <-]; apply/lee_sum_nneg_subfset.
 by move=> t; rewrite inE => /andP[_ /f0].
 Qed.
 
+Lemma esum_set1 t a : 0 <= a t -> \esum_(i in [set t]) a i = a t.
```
Comment (CohenCyril) [inline theories/esum.v:94]: Why `0 <= a t` ?

Comment (proux01) [reply theories/esum.v:94]: Because otherwise, the `\esum` is `0`.

File: theories/ereal.v [hunk 12]
```diff
@@ -771,17 +771,22 @@ Lemma fin_numD x y :
...
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
-Lemma fin_num_sum (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
+Lemma fin_num_sum (T : Type) (s : seq T) (P : pred T) (f : T -> \bar R) :
+  \sum_(i <- s | P i) f i \is a fin_num =
+  all [pred x | x \in fin_num] [seq f i | i <- s & P i].
+Proof.
+elim: s => [|h t ih]; rewrite ?big_nil// big_cons; case: ifPn => Ph.
+- by rewrite fin_numD/= Ph/= -ih.
+- by rewrite all_map/= (negbTE Ph) -all_map.
```
Comment (CohenCyril) [inline theories/ereal.v:780]:
```suggestion
by rewrite -big_all big_map big_filter; apply: (big_morph _ fin_numD).
```

File: theories/ereal.v [hunk 13]
```diff
@@ -771,17 +771,22 @@ Lemma fin_numD x y :
   (x + y \is a fin_num) = (x \is a fin_num) && (y \is a fin_num).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
-Lemma fin_num_sum (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
+Lemma fin_num_sum (T : Type) (s : seq T) (P : pred T) (f : T -> \bar R) :
```
Comment (CohenCyril) [inline theories/ereal.v:774]: Shouldn't it be `sum_fin_num`?

File: theories/ereal.v [hunk 14]
```diff
@@ -738,10 +764,31 @@ Qed.
...
+Qed.
+
+Lemma fin_num_sumP (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
+  \sum_(i <- s | P i) f i \is a fin_num <->
+  forall i, i \in s -> P i -> f i \is a fin_num.
+Proof.
+rewrite fin_num_sum; split=> [/allP + i si Pi|h].
+  by apply; apply/mapP; exists i => //; rewrite mem_filter Pi.
+by apply/allP => /= x /mapP[t]; rewrite mem_filter => /andP[Pt ts] -> /[!h].
+Qed.
```
Comment (CohenCyril) [inline theories/ereal.v:790]: Also, this should be a reflect
```suggestion
Lemma fin_num_sumP (T : eqType) (s : seq T) (P : pred T) (f : T -> \bar R) :
  reflect (forall i, i \in s -> P i -> f i \is a fin_num)
          (\sum_(i <- s | P i) f i \is a fin_num).
Proof.
rewrite fin_num_sum; apply: (iffP allP) => /=.
  by move=> + x xs Px; apply; rewrite map_f// mem_filter Px.
by move=> + _ /mapP[x /[!mem_filter]/andP[Px xs] ->]; apply.
Qed.
```

File: theories/ereal.v [hunk 15]
```diff
@@ -738,10 +764,29 @@ Qed.
...
+Lemma oppeB x y : y \is a fin_num -> - (x - y) = - x + y.
+Proof. by move=> yfin; rewrite oppeD ?oppeK// fin_numN. Qed.
+
 Lemma fin_numD x y :
   (x + y \is a fin_num) = (x \is a fin_num) && (y \is a fin_num).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma sum_fin_num (T : Type) (s : seq T) (P : pred T) (f : T -> \bar R) :
+  \sum_(i <- s | P i) f i \is a fin_num =
+  all [pred x | x \in fin_num] [seq f i | i <- s & P i].
```
Comment (proux01) [inline theories/ereal.v:776]: Nitpicking: is there a good reason to prefer `\in fin_num` over `\is a fin_num`?

File: theories/ereal.v [hunk 16]
```diff
@@ -10,7 +10,7 @@ Require Import boolp mathcomp_extra classical_sets functions reals signed.
 Require Import topology.
 
 (******************************************************************************)
-(*                        Extended real numbers                               *)
+(*                         Extended real numbers                              *)
```
Comment (proux01) [inline theories/ereal.v:13]: Should we add (at the bottom of this header?) a note that the `y` and `Ny` suffix stand for `+oo` and `-oo`?

**Review by proux01 — APPROVED** [review]
LGTM, will merge by the end of the week, feel free to squash.

File: theories/ereal.v (hunk 16 above)
Comment (affeldt-aist) [reply theories/ereal.v:13]: Definitely. (I though I had written that, it was maybe lost by my careless force-push.)

File: theories/ereal.v (hunk 15 above)
Comment (affeldt-aist) [reply theories/ereal.v:779]: No. It is rather a typo.

**Review by CohenCyril — APPROVED** [review]
LGTM in favor of merging right now

**Comment by proux01** [comment]
I'll merge once squashed (and CI green).

**Comment by affeldt-aist** [comment]
> I'll merge once squashed (and CI green).

You'd prefer me to squash first rather than using the "squash and merge" github button?
